US04581230
Methyl parahydroxybenzoate:
Monobutylester of the copolymer of methylvinylether/maleic acid, sold under the tradename "GANTREZ ES 425" by G.A.F.: 0.37 g (active material)

reactant | methylvinylether maleic acid | COC=C.C(\C=C/C(=O)O)(=O)O
reactant | GANTREZ ES 425 | CCCCOC(=O)/C=C\C(=O)O.COC=C
product | Methyl parahydroxybenzoate | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
